US09193723B2
ethyl 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate
Ethyl 2-(piperidin-4-yl)thiazole-5-carboxylate (100 mg, 0.416 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (21 mg, 0.033 mmol), bis(dibenzylideneacetone)palladium(0) (15 mg, 0.017 mmol) and cesium carbonate (678 mg, 2.081 mmol) were placed in a pressure tube capped with a septum and degassed with nitrogen by passing a stream through the vessel for 30 minutes. Separately, bromobenzene (68.6 mg, 0.437 mmol) was dissolved in toluene (2 ml) and the solution was degassed by bubbling nitrogen for 30 minutes. The bromobenzene solution was added to the solid mixture and the sealed tube was heated to 100° C. overnight. The mixture was partitioned between dichloromathane and water and the combined organic layers were concentrated and purified by normal phase chromatography to give the title compound.

reactant | Ethyl 2-(piperidin-4-yl)thiazole-5-carboxylate | 0.416 mmol, 100 mg | N1CCC(CC1)C=1SC(=CN1)C(=O)OCC | C11H16N2O2S
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.033 mmol, 21 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 2.081 mmol, 678 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromobenzene | 0.437 mmol, 68.6 mg | BrC1=CC=CC=C1 | C6H5Br
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.017 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | ethyl 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate | C1(=CC=CC=C1)N1CCC(CC1)C=1SC(=CN1)C(=O)OCC | C17H20N2O2S
